US07087601B2
To 5 mL of trimethylsilyl polyphosphate was added 2-aminopyridin-3-ol (175 mg, 1.59 mmol) and 3-methoxy-4-pyridin-2-ylbenzoic acid (344 mg, 1.50 mmol). The mixture was heated at 200° C. for 2 h, quenched over ice, and made basic (pH 14) with 1N NaOH. The aqueous phase was extracted with MTBE (3×200 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give 2-(3-methoxy-4-pyridin-2-ylphenyl)[1,3]oxazolo[4,5-b]pyridine as a light yellow solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.72 (d, 1H), 8.58 (d, 1H), 8.30 (d, 1H), 8.05–7.91 (m, 4H), 7.88 (t, 1H), 7.51 (dd, 1H), 7.40 (dd, 1H), 4.02 (s, 3H); MS (ESI) 304 (M+H)+.

reactant | trimethylsilyl polyphosphate | 5 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | 2-aminopyridin-3-ol | 1.59 mmol, 175 mg | NC1=NC=CC=C1O | C5H6N2O
reactant | 3-methoxy-4-pyridin-2-ylbenzoic acid | 1.50 mmol, 344 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)[1,3]oxazolo[4,5-b]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C=1OC=2C(=NC=CC2)N1 | C18H13N3O2
